US07678794B2
Synthesis of 1-[2-hydroxy-4-(4-nitro-benzyloxy)-3-propyl-phenyl]-ethanone
To 2′,4′-dihydroxy-3′-propyl acetophenone (3.0 g, 15.4 mmol) and 4-nitrobenzyl bromide (3.6 g, 17 mmol) in acetone (62 mL) is added K2CO3 (3.2 g, 23 mmol). The reaction mixture is refluxed for 1 h and cooled to room temperature. The precipitate is filtered, washed with water (5×70 mL), and dried to give the title compound (4.8 g, 94%). LC-MS (m/z): 328 (M−1).

reactant | 2′,4′-dihydroxy-3′-propyl acetophenone | 15.4 mmol, 3.0 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | 4-nitrobenzyl bromide | 17 mmol, 3.6 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | K2CO3 | 23 mmol, 3.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 62 mL | CC(=O)C | C3H6O
product | 1-[2-hydroxy-4-(4-nitro-benzyloxy)-3-propyl-phenyl]-ethanone | 4.8 g, 94% | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C)=O | C18H19NO5
